US07872028B2
A stirred solution of tert-butyl 3-(methoxy(methyl)carbamoyl)pyrrolidine-1-carboxylate (2.27 g, 8.8 mmol) in dry THF (40 mL) was cooled in an ice bath and 1 M PhMgBr in THF (20 mL, 20.0 mmol) was added dropwise over 2 min. The mixture was stirred and the ice bath was allowed to melt. After 3 h, the mixture was poured into satd aq NH4Cl and extracted with ether (2×200 mL). The combined ether extracts were dried over MgSO4 and concentrated to leave an oil. Flash chromatography on a 40-g silica cartridge eluted with a 0 to 50% EtOAc in hexanes gradient afforded tert-butyl 3-benzoylpyrrolidine-1-carboxylate (2.04 g, 84%) as a clear colorless oil.

reactant | tert-butyl 3-(methoxy(methyl)carbamoyl)pyrrolidine-1-carboxylate | 8.8 mmol, 2.27 g | CON(C(=O)C1CN(CC1)C(=O)OC(C)(C)C)C | C12H22N2O4
reactant | PhMgBr | 1 M | C1(=CC=CC=C1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 20.0 mmol, 20 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-benzoylpyrrolidine-1-carboxylate | 2.04 g, 84% | C(C1=CC=CC=C1)(=O)C1CN(CC1)C(=O)OC(C)(C)C | C16H21NO3
